US07589232B2
Step a) Formation of N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-4-methoxybenzamide
The titled compound was prepared following the procedure E using 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and 4-methoxybenzoyl chloride as a yellow oil (91%). M+ (ESI): 552. HPLC, Rt: 5.65 min (Purity: 98.5%).

reactant | 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | ClC1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C25H20ClNO3
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-4-methoxybenzamide | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C(C2=CC=C(C=C2)OC)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C33H26ClNO5
